US05254565
To a solution of 3-acetamido-6-chloro-4-phenylquinoline (1 g) in N,N-dimethylformamide (10 ml) was added 60% sodium hydride in oil (0.15 g). After stirring for 30 mins. at room temperature, to the mixture was added dropwise methyl iodide(0.25 ml) under stirring and then followed by stirring for 1 hr. at room temperature. After the mixture was diluted with water, the resultant precipitate was collected by filtration, and recrystallized from a mixture of methanol and chloroform to give 6-chloro-3-(N-methylacetamido)-4-phenylquinoline as colorless crystals. Yield 0.96 g (91.4%). m.p. 268°-270° C.

reactant | 3-acetamido-6-chloro-4-phenylquinoline | 1 g | C(C)(=O)NC=1C=NC2=CC=C(C=C2C1C1=CC=CC=C1)Cl | C17H13ClN2O
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 0.25 ml | CI | CH3I
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-chloro-3-(N-methylacetamido)-4-phenylquinoline | ClC=1C=C2C(=C(C=NC2=CC1)N(C(C)=O)C)C1=CC=CC=C1 | C18H15ClN2O
